US06362201B1
1-(N-(3-Methylsulfonylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
A solution of 0.021 g (0.042 mmol) of 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine, 0.009 mL (0.065 mmol) of triethylamine and 0.009 g (0.05 mmol) of methanesulfonic anydride in 2 mL of CH2Cl2 was stirred for 3 h at rt. To the reaction mixture was added 1 mL of sat'd NaHCO3 solution and the mixture was partitioned between EtOAc and water. The organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 3:7) to give 16 mg of the title compound. Mass Spectrum (EI) m/e 581 (M+1).

reactant | 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.042 mmol, 0.021 g | NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C31H39FN4O
reactant | triethylamine | 0.065 mmol, 0.009 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic | 0.05 mmol, 0.009 g | CS(=O)(=O)OCCCCOS(=O)(=O)C | C6H14O6S2
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(N-(3-Methylsulfonylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 16 mg | CS(=O)(=O)NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C32H41FN4O3S
